US07507740B2
(i) Production of tert-butyl (4-chlorobut-2-yn-1-yl)carbamate
4-Chlorobut-2-yn-1-amine hydrochloride (10.5 g) was dissolved in a mixed solvent of water (200 mL)/methanol (40 mL), di-tert-butyl dicarbonate (19 mL) was added, and the mixture was stirred at room temperature for 2 hrs. In this case, the reaction solution was maintained at pH 10-11 with 4N aqueous sodium hydroxide solution. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=100:0→80:20) to give the title compound (14.5 g) as a pale-yellow oil.

reactant | 4-Chlorobut-2-yn-1-amine hydrochloride | 10.5 g | Cl.ClCC#CCN
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 19 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 200 mL | O | H2O
solvent | methanol | 40 mL | CO | CH4O
product | tert-butyl (4-chlorobut-2-yn-1-yl)carbamate | 14.5 g | ClCC#CCNC(OC(C)(C)C)=O | C9H14ClNO2
